US04950674
α,α-Bis(3-fluorophenyl)-1-piperidinemethanol
To a suspension of 7.78 g (0.33 mole) of magnesium turnings and a crystal of iodine in 800 ml of anhydrous ether under an atmosphere of nitrogen atmosphere was slowly added a solution of 3-bromofluorobenzene in 200 ml of ether. The mixture was stirred for 1.5 hr and 30.6 g (0.103 mole) of ethyl 1-benzenesulfonylisonipecotate was added as a solid. Tetrahydrofuran (300 ml)was added, and the mixture was stirred at room temperature for 12 hr. The mixture was poured into an icy solution of ammonium chloride. The aqueous mixture was extracted with methylene chloride, and the resulting residue was recrystallized from ether to give 24.14 g (52.9%) of the title compound as a white, crystalline solid, m.p. 183°-185° C.

reactant | magnesium | 0.33 mole, 7.78 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-bromofluorobenzene | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | ethyl 1-benzenesulfonylisonipecotate | 0.103 mole, 30.6 g | C1(=CC=CC=C1)S(=O)(=O)N1CCC(C(=O)OCC)CC1 | C14H19NO4S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ether | 800 ml | CCOCC | C4H10O
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | Tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | α,α-Bis(3-fluorophenyl)-1-piperidinemethanol | 24.14 g, 52.9% | FC=1C=C(C=CC1)C(O)(N1CCCCC1)C1=CC(=CC=C1)F | C18H19F2NO
